US04545811
A suspension of 16.4 g of 2-amino-4,6-dichloropyrimidine in 100 ml of 40% sodium hydroxide solution is stirred at a temperature of 95°-100° C. for 1 hour. 200 ml of dioxane are added, and 20 g of gaseous difluorochloromethane are passed in at a temperature of 70°-75° C. in the course of 1 hour. The organic phase is separated off and concentrated to about 1/5 of its volume, the residue is poured into water and the solid precipitate is separated off to give 6 g of 2-amino-4-chloro-6-difluoromethoxy-pyrimidine of melting point 118°-119° C.

reactant | 2-amino-4,6-dichloropyrimidine | 16.4 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | difluorochloromethane | 20 g | FC(Cl)F | CHClF2
solvent | sodium hydroxide | 100 ml | [OH-].[Na+]
product | 2-amino-4-chloro-6-difluoromethoxy-pyrimidine | 6 g | NC1=NC(=CC(=N1)Cl)OC(F)F | C5H4ClF2N3O
